US08431514B2
4-(1,2,2,3,3,3-Hexafluoro-1-trifluoromethylpropyl)phenylamine (prepared as described in EP 1,006,102) (175.8 g, 565 mmol) was dissolved in acetonitrile (1000 ml) and N-chloro-succinimide (“NCS”) (76.2 g, 570.7 mmol) was added. The reaction mixture was heated to reflux for 90 minutes. The reaction mixture was concentrated, the residue suspended in diethyl ether and the solids removed via filtration. The filtrate was concentrated and the residue was purified by column chromatography on silica gel (eluent: cyclohexane/dichloromethane 9:1) to give 2-chloro-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)phenylamine. The same procedure was repeated using N-bromosuccinimide (“NBS”) (100.5 g, 565 mmol) as reagent. This time the residue was purified by column chromatography on silica gel (eluent:cyclohexane/dichloromethane 2:1) to give 2-bromo-6-chloro-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)phenylamine (143.3 g, 59.7% yield). 1H NMR (400 MHz, CDCl3): 7.70 (s, 1H), 7.42 (s, 1H), 4.82 (s, 2H).

reactant | 4-(1,2,2,3,3,3-Hexafluoro-1-trifluoromethylpropyl)phenylamine | 565 mmol, 175.8 g | FC(C(C(F)(F)F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)N | C10H6F9N
reactant | N-chloro-succinimide | 570.7 mmol, 76.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 1000 ml | C(C)#N | C2H3N
product | 2-chloro-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)phenylamine | ClC1=C(C=CC(=C1)C(C(C(F)(F)F)(F)F)(C(F)(F)F)F)N | C10H5ClF9N
